US08536169B2
N-[6-(1H-Indol-4-yl)-1H-indazol-4-yl]benzamide
Benzoic acid (10 mg, 0.08 mmol) in DMF (0.2 mL) was treated with HATU (27 mg, 0.07 mmol) in DMF (0.2 mL) and DIPEA (30 μL, 0.24 mmol). The reaction mixture was shaken for five minutes prior to treatment with 6-(1H-indol-4-yl)-2-(tetrahydro-2H-pyran-2-yl)-2H-indazol-4-amine (20 mg, 0.06 mmol) in DMF (0.2 mL). Reaction mixture was shaken for five minutes and left to stand at 22° C. for 18 hrs. Solvent was removed in vacuo and the product re-dissolved in methanol (1 mL) prior to application on to an SCX cartridge (1 g). Product was eluted after 1 hr with 2M ammonia in methanol (2×3 mL), fractions were combined and concentrated under a stream of nitrogen using blow down apparatus. Purification by MDAP (Method D) afforded the title compound.

reactant | Benzoic acid | 0.08 mmol, 10 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | HATU | 0.07 mmol, 27 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.24 mmol, 30 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 6-(1H-indol-4-yl)-2-(tetrahydro-2H-pyran-2-yl)-2H-indazol-4-amine | 0.06 mmol, 20 mg | N1C=CC2=C(C=CC=C12)C=1C=C(C2=CN(N=C2C1)C1OCCCC1)N | C20H20N4O
solvent | DMF | 0.2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.2 mL | CN(C)C=O | C3H7NO
product | N-[6-(1H-Indol-4-yl)-1H-indazol-4-yl]benzamide | N1C=CC2=C(C=CC=C12)C1=CC(=C2C=NNC2=C1)NC(C1=CC=CC=C1)=O | C22H16N4O
